.SUBCKT FDD8451 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Lgate 1 9 2.69e-9
Ldrain 2 5 1.0e-9
Lsource 3 7 0.8e-9
RLgate 1 9 26.9
RLdrain 2 5 10
RLsource 3 7 8.0
Rgate 9 6 1.08
It 7 17 1
Ebreak 11 7 17 7 42.6
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=9.1e-4 TC2=-1.2e-6)
.MODEL DbodyMOD D (IS=1.1e-12 n=1.0 RS=9.9m TRS1=0.4e-3 TRS2=0.4e-6 
+ CJO=0.28e-9 M=0.5 TT=18n XTI=1.7 )
.MODEL DbreakMOD D (RS=0.1 TRS1=1e-3 TRS2=1e-6)
Rdrain 5 16 RdrainMOD 17.3m
.MODEL RdrainMOD RES (TC1=4.4e-3 TC2=7e-6)
M_BSIM3 16 6 7 7 Bsim3 W=1.33 L=1.03u NRS=1
.MODEL  Bsim3 NMOS ( LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
*Process Parameters
+ TOX=455e-10 ;Oxide thickness
+ XJ=0.48u ;Channel depth
+ NCH=1.77e17 ;Channel concentration
*Channel Current
+ U0=1200 VSAT=2e5 DROUT=1.52
+ DELTA=0.1 PSCBE2=0 RSH=0.9m   
*Threshold voltage
+ VTH0=1.81
*Sub-threshold characteristics
+ VOFF=-0.18 NFACTOR=1.0
*Junction diodes and Capacitance
+ LINT=0.12u DLC=0.12u 
+ CGSO=1p CGSL=0 CGDO=20p CGDL=285p
+ CJ=0 CF=0 CKAPPA=1.5  
* Temperature parameters
+ KT1=-1.2 KT2=0 UA1=0.6e-8 
+ NJ=10)
*8 April 2006 Rev.A_RG
.ENDS
