* PSpice Model Editor - Version 10.5.0
*$
*FDD3510H Electrical Model(Complementary N-Channel)
*--------------------------------------------------
.SUBCKT FDD3510H_NCH 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Ebreak 11 7 17 7 88
Lgate 1 9 4.959e-9
Ldrain 2 5 0.1e-9
Lsource 3 7 2.627e-9
RLgate 1 9 49.59
RLdrain 2 5 1
RLsource 3 7 26.27
Rgate 9 6 1.7
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=9.5e-4 TC2=-1e-6)
.MODEL DbodyMOD D (IS=6.32e-13 n=1 RS=1.03e-2 TRS1=5.5e-8 TRS2=6.5e-8 
+ CJO=2.85e-10 M=0.38 TT=6.4n XTI=3)
.MODEL DbreakMOD D (RS=8e-2 TRS1=1e-3 TRS2=0)
Rdrain 5 16 RdrainMOD 49.8e-3
.MODEL RdrainMOD RES (TC1=9.2e-3 TC2=2e-6)
M_BSIM3 16 6 7 7 Bsim3 W=0.8 L=1.59u NRS=1 NRD=0
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)
**Process Parameters
+ TOX=600e-10 ;Oxide thickness
+ XJ=0.9u ;Channel depth
+ NCH=1.4e17 ;Channel concentration
**Channel Current
+ U0=700 VSAT=5e5 DROUT=1.5
+ DELTA=0.1 PSCBE2=0 RSH=4.4m   
**Threshold voltage
+ VTH0=2.1
**Sub-threshold characteristics
+ VOFF=-0.1 NFACTOR=1
**Junction diodes and Capacitance
+ LINT=0.16u DLC=0.16u 
+ CGSO=102e-12 CGSL=0 CGDO=15e-12 CGDL=340e-12
+ CJ=0 CF=0 CKAPPA=1.2
** Temperature parameters
+ KT1=-1.6 KT2=0 UA1=1.2e-9 
+ NJ=10)
.ENDS
*$
*FDD3510H Electrical Model(Complementary P-Channel)
*--------------------------------------------------
.SUBCKT FDD3510H_Pch 2 1 3   
*Nom Temp=25 deg C
Dbody 5 7 DbodyMOD
Dbreak 7 11 DbreakMOD
Ebreak 5 11 17 7 -88
Lgate 1 9 4.839e-9
Ldrain 2 5 0.1e-9 
Lsource 3 7 2.464e-9
RLgate 1 9 48.39
RLdrain 2 5 1
RLsource 3 7 24.64
Rgate 9 6 1.6
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=8e-4 TC2=-2e-7)
.MODEL DbodyMOD D (IS=1.02e-12 n=1 RS=1.43E-2 TRS1=1e-5 TRS2=1e-7
+ CJO=2.25e-10 M=0.4 TT=34n XTI=1 IKF=1)
.MODEL DbreakMOD D (RS=8e-3 TRS1=1e-3 TRS2=0)
Rdrain 5 16 RdrainMOD 138e-3
.MODEL RdrainMOD RES (TC1=3e-3 TC2=4.5e-5)
M_BSIM3 16 6 7 7 M_MOD W=0.665 L=1.51u NRS=0 NRD=0 
.MODEL  M_MOD PMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)
***Process Parameters
+ TOX=410e-10 ;Oxide thickness
+ XJ=1.595u ;Channel depth 
+ NCH=1.42e17 ;Channel concentration
***Channel Current
+ U0=220 vsat=1e5 drout=1.5
+ DELTA=0.08 PSCBE2=0 RSH=6.98e-3
***Threshold voltage
+ VTH0=-1.35
***Sub-threshold characteristics
+ VOFF=-1.1 NFACTOR=1
***Junction diodes and Capacitance
+ LINT=0.255u DLC=0.255u 
+ CGSO=198e-12 CGSL=0p CGDO=53e-12 CGDL=485e-12 
+ CJ=0 CF=0p CKAPPA=1
*** Temperature parameters
+ KT1=-1 KT2=0 UA1=1.6E-10 
+ NJ=10) 
.ENDS 
*FDD3510H (Rev.A) 4/11/08
*ST
*$
