* PSpice Model Editor - Version 10.5.0
*$
*FDD8424H Electrical Model(Complementary N-Channel)
*--------------------------------------------------
.SUBCKT FDD8424H_Nch 2 1 3    
*Nom Temp=25 deg C
Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Ebreak 11 7 17 7 44
Lgate 1 9 4.673e-9
Ldrain 2 5 1e-9
Lsource 3 7 2.52e-9
RLgate 1 9 46.73
RLdrain 2 5 10
RLsource 3 7 25.2
Rgate 9 6 1.1
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=8.5e-4 TC2=-1.6e-6)
.MODEL DbodyMOD D (IS=1e-12 n=1.08 RS=6.5m TRS1=3e-5 TRS2=1e-5 
+ CJO=2.9e-10 M=0.5 TT=13n XTI=3)
.MODEL DbreakMOD D (RS=8e-4 TRS1=1e-3 TRS2=1e-6)
Rdrain 5 16 RdrainMOD 14m
.MODEL RdrainMOD RES (TC1=5.7e-3 TC2=7e-6)
M_BSIM3 16 6 7 7 Bsim3 W=1.34 L=1.03u NRS=1 
.MODEL  Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
**Process Parameters
+ TOX=450e-10 ;Oxide thickness
+ XJ=0.48u ;Channel depth
+ NCH=1.6e17 ;Channel concentration
**Channel Current
+ U0=700 VSAT=5e5 DROUT=1.8
+ DELTA=0.1 PSCBE2=0 RSH=2.45m   
**Threshold voltage
+ VTH0=1.6
**Sub-threshold characteristics
+ VOFF=-0.1 NFACTOR=1.1
**Junction diodes and Capacitance
+ LINT=0.12u DLC=0.12u 
+ CGSO=70p CGSL=0 CGDO=45p CGDL=180p
+ CJ=0 CF=0 CKAPPA=1
** Temperature parameters
+ KT1=-1.2 KT2=0 UA1=0.4e-8 
+ NJ=10
.ENDS
*$
*---------------------------------------------------
*FDD8424H Electrical Model(Complementary P-Channel)
*---------------------------------------------------
.SUBCKT FDD8424H_Pch 2 1 3   
*Nom Temp=25 deg C
Dbody 5 7 DbodyMOD
Dbreak 7 11 DbreakMOD
Ebreak 5 11 17 7 -44
Lgate 1 9 4.65e-9
Ldrain 2 5 1e-9 
Lsource 3 7 2.54e-9
RLgate 1 9 46.5
RLdrain 2 5 10
RLsource 3 7 25.4
Rgate 9 6 3.3
It 7 17 1
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=7.8e-4 TC2=-2e-7)
.MODEL DbodyMOD D (IS=1.21e-12 n=1 RS=1.17E-2 TRS1=1e-3 TRS2=2e-6
+ CJO=3.1e-10 M=0.5 TT=18n XTI=1)
.MODEL DbreakMOD D (RS=0.5 TRS1=1e-3 TRS2=0)
Rdrain 5 16 RdrainMOD 31.5m 
.MODEL RdrainMOD RES (TC1=4e-3 TC2=2e-5)
M_BSIM3 16 6 7 7 M_MOD W=1.124 L=1.37u NRS=1  
.MODEL  M_MOD PMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0)
**Process Parameters
+ TOX=400e-10 ;Oxide thickness
+ XJ=0.92u ;Channel depth
+ NCH=1.6e17 ;Channel concentration
**Channel Current
+ U0=250 vsat=1e5 drout=1 
+ DELTA=0.25 PSCBE2=0 RSH=2.44m 
**Threshold voltage
+ VTH0=-1.55
**Sub-threshold characteristics
+ VOFF=-0.1 NFACTOR=1.3 
**Junction diodes and Capacitance
+ LINT=0.31u DLC=0.31u 
+ CGSO=240p CGSL=0p CGDO=110p CGDL=260p 
+ CJ=0 CF=0p CKAPPA=0.3
** Temperature parameters
+ KT1=-0.95 KT2=0 UA1=0.1E-9 
+ NJ=10 
.ENDS 
*FDD8424H Rev.A 3/28/2007
*ST

*$
