*SRC=FF450R12;FF450R12;IGBTs;No Diode;Infineon 1200V 450A 27.5NS Modul
*SYM=IGBT
.SUBCKT FF450R12 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
DR  74 71  FF450R12D
RC  85 71  1.03M
RE  83 74  103U
RG  72 82  0.333
CGE 82 83  26.4N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  314N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=129P NF=1.2 BF=5.1 CJE=336N TF=27.5N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=705K THETA=41.4M ETA=1M VTO=5.8 KP=21.7)
.MODEL DR D (IS=12.9P CJO=22.4N VJ=1 M=0.82)
.MODEL DO D (IS=12.9P BV=1.2K CJO=22.1N VJ=1 M=0.7)
.MODEL DE D (IS=12.9P BV=15 N=2)
.MODEL FF450R12D D (IS=828P RS=489U N=1.38 BV=1.2K IBV=10U CJO=1.33N VJ=0.75 M=0.333 TT=432N)
.MODEL DLIM D (IS=100N)
.ENDS
